US08809372B2
To a sealed tube containing a solution of thiazole (2 g, 23.53 mmol) in DMA (10 mL) was added potassium acetate (6.9 g, 70.58 mmol), 1-fluoro-4-iodobenzene (15.6 g, 70.58 mmol), and palladium hydroxide\C (0.53 g, 2.35 mmol) under nitrogen. The reaction mixture was heated to 145° C. and stirred for 16 h. The reaction mixture was cooled to room temperature and diluted with water (200 mL), filtered through Celite® reagent, and extracted with ethyl acetate (300 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to obtain crude product. The crude product was purified by column chromatography (100-200μ silica gel, eluting with 10% EtOAc and hexane) to afford 5-(4-fluorophenyl)thiazole (0.9 g, 22%). 1H NMR (400 MHz, CDCl3): δ 8.74 (s, 1H), 8.01 (s, 1H), 7.55 (t, 2H), 7.11 (t, 2H).

reactant | thiazole | 23.53 mmol, 2 g | S1C=NC=C1 | C3H3NS
reactant | potassium acetate | 70.58 mmol, 6.9 g | C(C)(=O)[O-].[K+]
reactant | 1-fluoro-4-iodobenzene | 70.58 mmol, 15.6 g | FC1=CC=C(C=C1)I | C6H4FI
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 200 mL | O | H2O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | 5-(4-fluorophenyl)thiazole | 0.9 g, 22% | FC1=CC=C(C=C1)C1=CN=CS1 | C9H6FNS
